US07129232B2
To a solution of 1,3-bis(tert-butoxycarbonyl)-2-(trifluoromethylsulfonyl)guanidine (22.3 g) in dichloromethane (100 ml) were added 4,5-diamino-1-methylpyrazole sulfuric acid salt (10 g) and triethylamine (33.2 ml) at 4° C., and the mixture was stirred at room temperature overnight. The reaction mixture was poured into a mixture of ethyl acetate and water. The aqueous layer was separated, and the organic layer was washed with brine, dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated in vacuo. The concentrate was poured into acetonitrile, and the resulting precipitate was collected by filtration and dried in vacuo to give 5-amino-4-[2′,3′-bis(tert-butoxycarbonyl)guanidino]-1-methylpyrazole (11.62 g).

reactant | 1,3-bis(tert-butoxycarbonyl)-2-(trifluoromethylsulfonyl)guanidine | 22.3 g | C(C)(C)(C)OC(=O)NC(=NS(=O)(=O)C(F)(F)F)NC(=O)OC(C)(C)C | C12H20F3N3O6S
reactant | 4,5-diamino-1-methylpyrazole sulfuric acid salt | 10 g | S(O)(O)(=O)=O.NC=1C=NN(C1N)C
reactant | triethylamine | 33.2 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 5-amino-4-[2′,3′-bis(tert-butoxycarbonyl)guanidino]-1-methylpyrazole | 11.62 g | NC1=C(C=NN1C)NC(=NC(=O)OC(C)(C)C)NC(=O)OC(C)(C)C | C15H26N6O4
